US09079853B2
3-hydroxy-1-isobutyl-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one
This compound was made in an analogous fashion to 1-ethyl-3-hydroxy-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one using 5-methyl-1-isobutyl-2-oxoindolin-3-yl benzoate. 1H-NMR δ 7.22 (s, 1H), 7.08 (d, 1H), 6.58 (d, 2H), 6.1 (s, 2H), 3.74 (s, 3H), 3.63 (s, 6H), 3.48 (m, 1H), 3.29 (d, 1H), 3.11 (m, 1H), 3.06 (bs, OH), 2.35 (s, 3H), 1.85 (m, 1H), 0.70 (dd, 6H).

reactant | 1-ethyl-3-hydroxy-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one | C(C)N1C(C(C2=CC(=CC=C12)C)(CC1=CC(=C(C(=C1)OC)OC)OC)O)=O | C21H25NO5
reactant | 5-methyl-1-isobutyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC(C)C)=O | C20H21NO3
product | 3-hydroxy-1-isobutyl-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one | OC1(C(N(C2=CC=C(C=C12)C)CC(C)C)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C23H29NO5
